* D:\Users\lucas\Desktop\IC ELETRONICOS\1E_JFET_BUFFER\1E_JFET_BUFFER_THD\1E_JFET_BUFFER_THD.asc
V1 V+ 0 30
V2 0 V- 30
I1 N012 V- 0.1m
R1 V+ N002 {RD}
R2 V+ N004 {RD}
R7 V+ N001 {RB}
R9 V+ vout {RB}
R8 N009 V- {RB}
R10 N011 V- {RB}
Q3 0 N003 N011 0 2SC2240
Q4 N003 N002 N001 0 2SA970
R3 N008 N012 {RE}
R4 N010 N012 {RE}
R5 0 N006 {RG}
R6 N007 0 {RG}
Q5 0 N004 vout 0 2SA970
Q6 N003 N003 N009 0 2SC2240
V3 N005 0 SINE(0 28.2m 1k)
J1 N002 N006 N008 J201
J2 N004 N007 N010 J201
C1 N006 N005 1µ
.model NPN NPN
.model PNP PNP
.lib D:\Users\lucas\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib D:\Users\lucas\Documents\LTspiceXVII\lib\cmp\standard.jft
.backanno
.end
