* D:\Users\lucas\Desktop\IC ELETRONICOS\3E_JFET\SLEW_RATE\3E_SLEW_OFFSET_CORRENTE_20mA.asc
V1 V+ 0 30
V2 0 V- 30
I1 N021 V- 0.5m
R1 V+ N003 {RD}
R2 V+ N006 {RD}
R7 V+ N001 {RB}
R9 V+ N004 {RB}
R8 N018 V- {RB}
R10 N019 V- {RB}
Q3 N015 N005 N019 0 2SC2240
Q4 N005 N003 N001 0 2SA970
R3 N016 N021 {RE}
R4 N017 N021 {RE}
R5 0 N013 47K
R6 N014 0 47K
Q5 N008 N006 N004 0 2SA970
Q6 N005 N005 N018 0 2SC2240
V3 N013 0 SINE(0 28.2m 1k) AC 1 0
J1 N003 N013 N016 J201
J2 N006 N014 N017 J201
Q1 N007 N004 N002 0 2SA970
RE_2E_1 V+ N002 {RE_VAS}
RC_2E_1 N007 0 {RC_VAS}
RC_2E_2 0 N011 {RC_VAS}
Q2 N011 N019 N020 0 2SC2240
RE_2E_2 N020 V- {RE_VAS_AJUSTE}
R1_VBE N007 N010 {R1_VBE}
R2_VBE N011 N010 {R2_VBE}
C2 N007 N011 10µ
R11 N008 0 0.01
R12 0 N015 0.01
Q7 N007 N010 N011 0 2SC2240
Q8 V+ N007 N009 0 2SC2240
Q9 V- N011 N012 0 2SA970
R13 N009 vout 100
R14 vout N012 100
R15 vout 0 10k
.model NPN NPN
.model PNP PNP
.lib D:\Users\lucas\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib D:\Users\lucas\Documents\LTspiceXVII\lib\cmp\standard.jft
.param R2_VBE=1k ; MULTIPLICADOR DE VBE
.param RD=60K
.param RE=4033.263510954335
.param RB=14470.0
.param RE_VAS =3097.7777777777774
.param RC_VAS=54082.14302797587
.param RE_VAS_AJUSTE=3089.77
* AJUSTE DO RE_VAS_AJUSTE OLHANDO PARA A CORRENTE 20mA.
* R1_VBE=1.5K; I=2.06mA ; offset = 310mV\nR1_VBE=7.5K; I=20.5mA ; offset = 89.4uV\nR1_VBE=14K; I=40.7mA ; offset = -366.31mV
.OPTIONS maxord=1
.OPTIONS itl1=1000
.OPTIONS itl2=1000
.OPTIONS itl4=1000
.OPTIONS numdgt=99
.OPTIONS measdgt=99
.OPTIONS plotwinsize=0
.backanno
.end
